US09233979B2
(R)-1-(3-(1,3-Dioxoisoindolin-2-yl)-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea (114 mg, 0.267 mmol) was dissolved in DMA (1 mL) and methanol (1 mL), charged with powdered Selectfluor® (108 mg, 0.305 mmol), and stirred at room temperature for 20 h. The solvents were concentrated in vacuo and the residue was purified by flash chromatography (3-15% MeOH/DCM). The crude mixture obtained was then dissolved in EtOH (3 mL), charged with hydrazine hydrate (0.130 mL, 2.67 mmol), and heated to 85° C. for 30 min. The solvents were concentrated in vacuo and the residue was purified by mass-triggered reverse phase HPLC followed by purification via flash chromatography (2-10% MeOH/DCM) to give (R)-1-(3-amino-7-fluoro-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea. MS ESI calc'd. for C15H15FN6O [M+1]+ 315. found 315. 1H NMR (500 MHz, DMSO-d6) δ 8.55 (s, 1H), 7.42-7.34 (m, 4H), 7.27 (m, 1H) 5.07 (q, J=6.7 Hz, 1H), 1.58 (d, J=7.0 Hz, 4H).

reactant | (R)-1-(3-(1,3-Dioxoisoindolin-2-yl)-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea | 0.267 mmol, 114 mg | O=C1N(C(C2=CC=CC=C12)=O)C1=NNC2=C1C=NC(=C2)NC(=O)N[C@H](C)C2=CC=CC=C2 | C23H18N6O3
reactant | Selectfluor | [B-](F)(F)(F)F.[B-](F)(F)(F)F.C1C[N+]2(CC[N+]1(CC2)CCl)F
reactant | hydrazine hydrate | 2.67 mmol, 0.130 mL | O.NN
solvent | DMA | 1 mL | CC(=O)N(C)C | C4H9NO
solvent | methanol | 1 mL | CO | CH4O
solvent | EtOH | 3 mL | CCO | C2H6O
product | (R)-1-(3-amino-7-fluoro-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea | NC1=NNC2=C1C=NC(=C2F)NC(=O)N[C@H](C)C2=CC=CC=C2 | C15H15FN6O
